US09351962B2
To a solution of 2-aminothiazole (20.0 g, 199.7 mmol) and (Boc)2O (48.0 g, 219.7 mmol) in anhydrous THF (100 mL) were added DMAP (20 mg) and Et3N (36.0 mL, 260.0 mmol). The reaction mixture was stirred at 25° C. for 18 h, diluted with CH2Cl2 and washed with 0.1 N HCl (×1), brine (×1) and H2O (×1). The organic layer was separated from the aqueous layer, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography (0-40% EtOAc/Hexane) to provide tert-butyl thiazol-2-ylcarbamate as a white solid (20.7 g, 72%). 1H-NMR (400MHz, CDCl3) δ 11.44 (s, 1H), 738 (d, J=3.6 Hz, 1H), 6.89 (d, J=3.6 Hz, 1H), 1.58 (s, 9H). HPLC ret. time 2.61 min, 10-99% CH3CN, 5 min run; ESI-MS 145.1 m/z (MH+).

reactant | 2-aminothiazole | 199.7 mmol, 20.0 g | NC=1SC=CN1 | C3H4N2S
reactant | (Boc)2O | 219.7 mmol, 48.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 260.0 mmol, 36.0 mL | CCN(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-butyl thiazol-2-ylcarbamate | 20.7 g, 72% | S1C(=NC=C1)NC(OC(C)(C)C)=O | C8H12N2O2S
